US08580957B2
To 2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-1,2,3-triazol-1-yl}ethanol (for a preparation see intermediate 45) (358 mg, 0.834 mmol) and imidazole (114 mg, 1.667 mmol) in N,N-dimethylformamide (DMF) (15 mL), was added chloro(1,1-dimethylethyl)dimethylsilane (151 mg, 1.0 mmol) and the resulting reaction mixture was stirred at room temperature for 16 h. Another equivalent of imidazole (114 mg, 1.667 mmol) and chloro(1,1-dimethylethyl)dimethylsilane (151 mg, 1.000 mmol) were then added and after 15 min the resulting mixture was partitioned between EtOAc and water. The layers were separated and the aqueous phase was extracted three times with EtOAc. The combined organic layers were washed twice with brine, dried over MgSO4 and concentrated in vacuovacuo. Purification of the residue on SP4 using a 25 G silica cartridge (gradient:0 to 10% MeOH in DCM) gave (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (202 mg, 0.451 mmol, 54.1% yield) as a yellow oil.

reactant | 2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-1,2,3-triazol-1-yl}ethanol | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO)N)C | C16H21N5O2
reactant | imidazole | 1.667 mmol, 114 mg | N1C=NC=C1 | C3H4N2
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 1.0 mmol, 151 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | imidazole | 1.667 mmol, 114 mg | N1C=NC=C1 | C3H4N2
reactant | chloro(1,1-dimethylethyl)dimethylsilane | 1.000 mmol, 151 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | 0.451 mmol, 202 mg, 54.1% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO[Si](C)(C)C(C)(C)C)N)C | C22H35N5O2Si
